US07741321B2
A solution of {6-[4-(2-hydroxymethyl-pyrrolidine-1-sulfonyl)-phenyl]pyridin-2-yl}carbamic acid tert-butyl ester (15.0 g, 34.6 mmol) in HCl/MeOH (50 mL, 2M) was heated at reflux for 2 h. After cooling to room temperature, the reaction mixture was evaporated under vacuum and washed with EtOAc to give (R)-(1-(4-(6-aminopyridin-2-yl)phenylsulfonyl)pyrrolidin-2-yl)methanol hydrochloride (C-2; 11.0 g, 86%). 1H NMR (300 MHz, DMSO-d6) δ 8.18 (d, J=8.7 Hz, 2H), 7.93-7.99 (m, 3H), 7.31 (d, J=7.2 Hz, 1H), 7.03 (d, J=8.7 Hz, 1H), 3.53-3.57 (m, 2H), 3.29-35 (m, 2H), 3.05-3.13 (m, 1H), 1.77-1.78 (m, 2H), 1.40-1.45 (m, 2H). MS (ESI) m/z (M+H)+ 334.2.

reactant | {6-[4-(2-hydroxymethyl-pyrrolidine-1-sulfonyl)-phenyl]pyridin-2-yl}carbamic acid tert-butyl ester | 34.6 mmol, 15.0 g | C(C)(C)(C)OC(NC1=NC(=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)CO)=O | C21H27N3O5S
reactant | HCl MeOH | 2M, 50 mL | Cl.CO
product | (R)-(1-(4-(6-aminopyridin-2-yl)phenylsulfonyl)pyrrolidin-2-yl)methanol hydrochloride | 11.0 g, 86% | Cl.NC1=CC=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)N1[C@H](CCC1)CO | InChI=1S/C16H19N3O3S.ClH/c17-16-5-1-4-15(18-16)12-6-8-14(9-7-12)23(21,22)19-10-2-3-13(19)11-20;/h1,4-9,13,20H,2-3,10-11H2,(H2,17,18);1H/t13-;/m1./s1
